US07772285B2
25.0 g of 2-sulfanylbenzoic acid was suspended in 125 mL of ethanol, to which 14.3 g of sodium hydroxide and 31.7 mL of 2-bromo-1,1-diethoxyethane was successively added and this suspension was stirred for 3.5 hours while heating it under reflux. The reaction mixture was concentrated under reduced pressure, and the resultant residue was dissolved in 250 mL of N,N-dimethylformamide, to which 15.1 mL of iodomethane and 67.2 g of potassium carbonate were added, and then this mixture was stirred for one hour at room temperature. The reaction mixture was added to a mixture of ethyl acetate and water, from which the organic phase was separated. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=2:1] to yield yellow oil. This product was dissolved in 250 mL of toluene, to which 100 mL of a 85% phosphoric acid was added, and this solution was stirred for 4.5 hours while heating it under reflux. The reaction mixture was cooled to room temperature, to which water was added, and filtered through Celite to separate the organic phase therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. Purification by silica gel column chromatography [eluent; hexane:ethyl acetate=10:1] to yield 20.5 g of methyl 1-benzothiophene-7-carboxylate as yellow oil.

reactant | 2-sulfanylbenzoic acid | 25.0 g | SC1=C(C(=O)O)C=CC=C1 | C7H6O2S
reactant | sodium hydroxide | 14.3 g | [OH-].[Na+]
reactant | 2-bromo-1,1-diethoxyethane | 31.7 mL | BrCC(OCC)OCC | C6H13BrO2
reactant | water | O | H2O
reactant | ethanol | 125 mL | C(C)O | C2H6O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | methyl 1-benzothiophene-7-carboxylate | 20.5 g | S1C=CC2=C1C(=CC=C2)C(=O)OC | C10H8O2S
